US07135466B2
N-{4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2,3-dimethylphenyl}-N′-(1-piperidinyl)thiourea
4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2,3-dimethylaniline (50 mg) was dissolved in N,N-dimethylformamide (2 ml) and triethylamine (1 ml) to prepare a solution. Thiophosgene (51 mg) was then added to the solution, and the mixture was stirred at room temperature for 6 hr. Next, 1-aminopiperidine (50 mg) was added thereto, and the mixture was further stirred at room temperature for 14 hr. Ethyl acetate was added to the reaction solution, followed by washing with water and saturated brine in that order. The organic layer was then dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by HPLC using chloroform/methanol for development to give the title compound (20 mg, yield 27%).

reactant | 4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2,3-dimethylaniline | 50 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C(=C(N)C=C1)C)C | C19H20N2O3
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
reactant | Thiophosgene | 51 mg | C(=S)(Cl)Cl | CCl2S
reactant | 1-aminopiperidine | 50 mg | NN1CCCCC1 | C5H12N2
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-{4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2,3-dimethylphenyl}-N′-(1-piperidinyl)thiourea | 20 mg, yield 27% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C(=C(C=C1)NC(=S)NN1CCCCC1)C)C | C25H30N4O3S
